US06809097B1
A mixture of 7-benzyloxy-4-chloro-6-methoxyquinoline hydrochloride (300 mg, 0.89 mmol), (prepared as described for the starting material in Example 3), and 4-chloro-2-fluoroaniline (160 mg, 1.1 mmol) was heated at reflux in cyclohexane (20 ml) for 24 hours. The solvent was removed by evaporation and the residue was triturated with ether. The solid crude product was collected by filtration and purified by column chromatography eluting with methylene chloride/methanol (100/0 increasing to 95/5) to give 7-benzyloxy-4-(4-chloro-2-fluoroanilino)-6-methoxyquinoline hydrochloride (83 mg, 21%).

reactant | 7-benzyloxy-4-chloro-6-methoxyquinoline hydrochloride | 0.89 mmol, 300 mg | Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)Cl)OC
reactant | 4-chloro-2-fluoroaniline | 1.1 mmol, 160 mg | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
solvent | cyclohexane | 20 ml | C1CCCCC1 | C6H12
product | 7-benzyloxy-4-(4-chloro-2-fluoroanilino)-6-methoxyquinoline hydrochloride | 83 mg, 21% | Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)NC1=C(C=C(C=C1)Cl)F)OC | InChI=1S/C23H18ClFN2O2.ClH/c1-28-22-12-17-19(27-20-8-7-16(24)11-18(20)25)9-10-26-21(17)13-23(22)29-14-15-5-3-2-4-6-15;/h2-13H,14H2,1H3,(H,26,27);1H
